US07601850B2
B. 5-(3-Hydroxy-3-pentyl)thiophene-2-carboxylic acid
To a −78° C. mixture of 2-(3-hydroxy-3-pentyl)thiophene (0.34 g, 2.0 mmol) in THF (2 ml) is added of 1.6 M n-butyllithium in Hex (2.75 ml, 4.4 mmol). The mixture is allowed to warm to RT and powderized dry ice (CO2) is added. After one h, the mixture is partitioned between diethyl ether and 1N NaHCO3. The aqueous layer is washed with ether, acidified with conc. HCl and extracted with ether. The organic layer is Na2SO4 dried, filtered, and concentrated to give the title compound (0.236 g, 53%).

reactant | 2-(3-hydroxy-3-pentyl)thiophene | 2.0 mmol, 0.34 g | OC(CC)(CC)C=1SC=CC1 | C9H14OS
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 5-(3-Hydroxy-3-pentyl)thiophene-2-carboxylic acid | 0.236 g, 53% | OC(CC)(CC)C1=CC=C(S1)C(=O)O | C10H14O3S
